US06169091A
6-(1-Methylpiperazin-4-yl)-4-(4-phenylsulphonylanilino)-pyrido[3,4-d]pyrimidine
Prepared according to Procedure C from 6-chloro-4-(4-phenylsulphonylanilino)pyrido[3,4-d]pyrimidine and 1-methylpiperazine; δH (CDCl3+DMSO) 9.66 (1H,s), 8.91 (1H,s), 8.52 (1H,s), 8.15 (2H, d), 7.88-7.98 (4H,m), 7.48-7.62 (4H,m), 3.66-3.74 (4H,m), 2.52-2.64 (4H,m), 2.38 (3H,s); m/z (M+1)+461.

reactant | 6-chloro-4-(4-phenylsulphonylanilino)pyrido[3,4-d]pyrimidine | ClC1=CC2=C(N=CN=C2NC2=CC=C(C=C2)S(=O)(=O)C2=CC=CC=C2)C=N1 | C19H13ClN4O2S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 6-(1-Methylpiperazin-4-yl)-4-(4-phenylsulphonylanilino)-pyrido[3,4-d]pyrimidine | CN1CCN(CC1)C1=CC2=C(N=CN=C2NC2=CC=C(C=C2)S(=O)(=O)C2=CC=CC=C2)C=N1 | C24H24N6O2S
